US07071221B2
Step A: Ethyl 2-{4-[2-(6-benzoyl-2-oxo-1,3-benzothiazol-3(2H)-yl)ethoxy]phenoxy}-2-methylpropanoate
To a solution, heated at 80° C. for 2 hours, of 6-benzoyl-benzothiazolinone (6.7 mmol) in the presence of K2CO3 in 20 ml of DMF there is added ethyl 2-[4-(2-chloroethoxy)phenoxy]-2-methylpropanoate. The reaction mixture is heated at 120° C. for 5 days, cooled, hydrolysed using 100 ml of water and rendered alkaline using 1N NaOH. The precipitate obtained is filtered off and then recrystallised from cyclohexane to yield the title compound in the form of a white powder.

reactant | 6-benzoyl-benzothiazolinone | 6.7 mmol | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=CS2=O)C=C1 | C14H9NO2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-[4-(2-chloroethoxy)phenoxy]-2-methylpropanoate | ClCCOC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H19ClO4
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | Ethyl 2-{4-[2-(6-benzoyl-2-oxo-1,3-benzothiazol-3(2H)-yl)ethoxy]phenoxy}-2-methylpropanoate | C(C1=CC=CC=C1)(=O)C1=CC2=C(N(C(S2)=O)CCOC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C=C1 | C28H27NO6S
